US07375204B2
2-Chloro-3-(methoxymethoxy)pyridine
Sodium hydride (66%, 633 mg, 17.4 mmol) was added to an ice-cooled solution of 2-chloro-3-hydroxypyridine (2.05 g, 15.8 mmol) in tetrahydrofuran (30 ml) under nitrogen atmosphere, and this reaction mixture was stirred at that temperature for 15 minutes. Chloromethyl methyl ether (1.32 ml, 17.4 mmol) was added, and the resulting reaction mixture was stirred at that temperature for 30 minutes, then at room temperature for another 2 hours. After water was added, the reaction mixture was extracted with ethyl acetate, washed with saturated brine, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give the title compound (2.44 g).

reactant | Sodium hydride | 17.4 mmol, 633 mg | [H-].[Na+]
reactant | 2-chloro-3-hydroxypyridine | 15.8 mmol, 2.05 g | ClC1=NC=CC=C1O | C5H4ClNO
reactant | Chloromethyl methyl ether | 17.4 mmol, 1.32 ml | COCCl | C2H5ClO
reactant | water | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2-Chloro-3-(methoxymethoxy)pyridine | 2.44 g | ClC1=NC=CC=C1OCOC | C7H8ClNO2
